US09108938B2
2,3-Dichloro-N-[2-(4,4-difluoro-piperidin-1-yl)-2-(4-fluoro-phenyl)-ethyl]-benzamide
From 2,3-dichlorobenzoic acid and 2-(4-fluoro-phenyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine.

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(4-fluoro-phenyl)-2-(4,4-difluoro-piperidin-1-yl)-ethylamine | FC1=CC=C(C=C1)C(CN)N1CCC(CC1)(F)F | C13H17F3N2
product | 2,3-Dichloro-N-[2-(4,4-difluoro-piperidin-1-yl)-2-(4-fluoro-phenyl)-ethyl]-benzamide | ClC1=C(C(=O)NCC(C2=CC=C(C=C2)F)N2CCC(CC2)(F)F)C=CC=C1Cl | C20H19Cl2F3N2O
